US04348320
Benzyl glyoxalate is prepared from 0.390 g of dibenzyl tartarate as described in Example 1 Step A, dissolved in 30 ml C6H6 and refluxed using a Dean-Stark water separator according 1 g of CaH2 for 2 hours. Trans-3-isopropyl-4-(2-acetoxyethyl)-2-azetidinone (0.214 g) is added and the mixture is refluxed 8 hrs, cooled, filtered and evaporated. The residue is purified by preparative t.l.c. to trans-1-(benzyloxycarbonylhydroxymethyl)-3-isopropyl-4-(2-acetoxyethyl)-2-azetidinone (0.395 g). i.r.μ: 2.9 (OH); 5.7 (broad β-lactam--ester carbonyls).

reactant | dibenzyl tartarate | 0.390 g | C(C(O)C(O)C(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C18H18O6
reactant | water | O | H2O
reactant | Trans-3-isopropyl-4-(2-acetoxyethyl)-2-azetidinone | 0.214 g | C(C)(C)[C@@H]1C(N[C@H]1CCOC(C)=O)=O | C10H17NO3
solvent | C6H6 | 30 ml | C1=CC=CC=C1 | C6H6
product | Benzyl glyoxalate | C(C=O)(=O)OCC1=CC=CC=C1 | C9H8O3
